US06060488
4-Hydroxy-1-Hexylpiperidine
4-Hydroxypiperidine (2.02 g, 20 mmol) was dissolved in 100 mL of methyl ethylketone. To this stirred mixture was added 2-iodohexane (1.5 mL, 10 mmol) and the resulting solution was heated at reflux for 1.5 hours. The mixture was allowed to cool and was then washed with saturated aqueous sodium bicarbonate (3×75 mL). The organic layer was dried over magnesium sulfate, filtered, and evaporated, and the residue was dried overnight under house vacuum to yield 1.184 g (64%) of the title compound which was used without further purification. 1H NMR consistent with desired product. MS(FD) 186(M+).

reactant | 4-Hydroxypiperidine | 20 mmol, 2.02 g | OC1CCNCC1 | C5H11NO
reactant | 2-iodohexane | 10 mmol, 1.5 mL | IC(C)CCCC | C6H13I
solvent | methyl ethylketone | 100 mL | CC(=O)CC | C4H8O
product | 4-Hydroxy-1-Hexylpiperidine | 1.184 g, 64% | OC1CCN(CC1)CCCCCC | C11H23NO
